datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)N(C)c1cccc[n+:21]1[H:20].O=[N+]([O-])c1c[n:10]c([O-])[nH+]c1[O-]>>CC(=O)N(C)c1cccc[n:21]1.O=[N+]([O-])c1c[n+:10]([H:20])c([O-])[nH+]c1[O-] 10=20;20,21=21",
"NC(=O)CCC(N)C(=O)NCC(=O)[O-:10].Nc1c2ccccc2[n+:21]([H:20])c2cccc([N+](=O)[O-])c12>>NC(=O)CCC(N)C(=O)NCC(=O)[O:10][H:20].Nc1c2ccccc2[n:21]c2cccc([N+](=O)[O-])c12 10=20;20,21=21",
"CS/C(c1ccccc1)=[NH+:21]/[H:20].Nc1nccc[n:10]1>>CSC(c1ccccc1)=[NH:21].Nc1nccc[n+:10]1[H:20] 10=20;20,21=21",
"NC(=O)CC(=O)c1cccc[n:10]1.Nc1ccc(S(=O)(=O)[N:21](c2nccs2)[H:20])c(Cl)c1>>NC(=O)CC(=O)c1cccc[n+:10]1[H:20].Nc1ccc(S(=O)(=O)[N-:21]c2nccs2)c(Cl)c1 10=20;20,21=21",
"CC1C[N:10]=C(C(C)(C)C)S1.CCOP(=O)(c1ccc([N+](=O)[O-])cc1)[N:21](c1nccs1)[H:20]>>CC1C[N+:10]([H:20])=C(C(C)(C)C)S1.CCOP(=O)(c1ccc([N+](=O)[O-])cc1)[N-:21]c1nccs1 10=20;20,21=21",
"Cc1cc([O-])[n:10]c2c1CCO2.O=C1C(c2ccccc2)=C1[O:21][H:20]>>Cc1cc([O-])[n+:10]([H:20])c2c1CCO2.O=C1C(c2ccccc2)=C1[O-:21] 10=20;20,21=21",
"CC1=C/C(=N\c2ccc([O-:10])cc2)C(C(C)C)=CC1=O.Cc1cccc(I)c1C(=O)[O:21][H:20]>>CC1=C/C(=N\c2ccc([O:10][H:20])cc2)C(C(C)C)=CC1=O.Cc1cccc(I)c1C(=O)[O-:21] 10=20;20,21=21",
"Cc1ccc2c(c(NCCC[NH+](C)C)cc[n+:21]2[H:20])c1[N+](=O)[O-].N#CC(C#N)=N[N-:10]c1ccccc1[N+](=O)[O-]>>Cc1ccc2c(c(NCCC[NH+](C)C)cc[n:21]2)c1[N+](=O)[O-].N#CC(C#N)=N[N:10](c1ccccc1[N+](=O)[O-])[H:20] 10=20;20,21=21",
"CC1(C)OC(=O)C[C@H]2[C@@H](C(=O)[O:21][H:20])[NH2+]C[C@H]21.O=C(/C=C\c1ccccc1)[O-:10]>>CC1(C)OC(=O)C[C@H]2[C@@H](C(=O)[O-:21])[NH2+]C[C@H]21.O=C(/C=C\c1ccccc1)[O:10][H:20] 10=20;20,21=21",
"C#CC(C)[NH:10]c1ccccc1.COCC[NH+:21](c1ccc(Cl)cc1)[H:20]>>C#CC(C)[NH+:10](c1ccccc1)[H:20].COCC[NH:21]c1ccc(Cl)cc1 10=20;20,21=21",
"CC(C)[NH:10]C[Si](C)(C)C.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC(C)[NH+:10](C[Si](C)(C)C)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"O=C([O-])C1([NH2:10])CCCC1.Oc1cccc2sc[n+:21]([H:20])c12>>O=C([O-])C1([NH2+:10][H:20])CCCC1.Oc1cccc2sc[n:21]c12 10=20;20,21=21",
"CCC(C)[NH+:21](CC(C)C)[H:20].O=C1Oc2cc([O-:10])ccc2C=C1c1nc2ccccc2s1>>CCC(C)[NH:21]CC(C)C.O=C1Oc2cc([O:10][H:20])ccc2C=C1c1nc2ccccc2s1 10=20;20,21=21",
"CCC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(Cl)C=C2)[H:20])C=C1>>CCC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(Cl)C=C2)C=C1 10=20;20,21=21",
"CC(C)Oc1cccc(C(=O)[O:21][H:20])c1.Cc1n[nH]c2ccc([NH2:10])cc12>>CC(C)Oc1cccc(C(=O)[O-:21])c1.Cc1n[nH]c2ccc([NH2+:10][H:20])cc12 10=20;20,21=21",
"CCCOc1ccc(C(=O)[O-:10])cc1.O=C([O-])C(CO)[NH2+]Cc1cc(Cl)ccc1[O:21][H:20]>>CCCOc1ccc(C(=O)[O:10][H:20])cc1.O=C([O-])C(CO)[NH2+]Cc1cc(Cl)ccc1[O-:21] 10=20;20,21=21",
"C[n+]1ccc2ccc([O-:10])cc2c1.S=C1c2[nH]nnc2N=C[N:21]1[H:20]>>C[n+]1ccc2ccc([O:10][H:20])cc2c1.S=C1c2[nH]nnc2N=C[N-:21]1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])C(Cc1n[nH]c2ccccc12)[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])C(Cc1n[nH]c2ccccc12)[NH2+:10][H:20] 10=20;20,21=21",
"C[N:10]1CCCC1c1cncc2[nH]c3ccccc3c12.Fc1cccc2c1Cc1cc([NH2+:21][H:20])ccc1-2>>C[N+:10]1([H:20])CCCC1c1cncc2[nH]c3ccccc3c12.Fc1cccc2c1Cc1cc([NH2:21])ccc1-2 10=20;20,21=21",
"Nc1ccc(C(=O)[O:21][H:20])cc1.O=C(c1ccccc1)n1c[n:10]c2ccccc21>>Nc1ccc(C(=O)[O-:21])cc1.O=C(c1ccccc1)n1c[n+:10]([H:20])c2ccccc21 10=20;20,21=21",
"C[N+](C)(C)Cc1cccc(O)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[N+](C)(C)Cc1cccc(O)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc(CCCC[NH2:10])nc1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc(CCCC[NH2+:10][H:20])nc1 10=20;20,21=21",
"CC1c2cc(O)ccc2CC1CC(=O)[O-:10].O=C(Cc1nnnn1-c1ccccc1)[O:21][H:20]>>CC1c2cc(O)ccc2CC1CC(=O)[O:10][H:20].O=C(Cc1nnnn1-c1ccccc1)[O-:21] 10=20;20,21=21",
"CCOC(=O)C1=N[N-:10]C2=C(C1=O)C(=O)N(C)C(=O)N2C.Cn1c(-c2ccccc2[O:21][H:20])[nH+]c2ccccc21>>CCOC(=O)C1=N[N:10]([H:20])C2=C(C1=O)C(=O)N(C)C(=O)N2C.Cn1c(-c2ccccc2[O-:21])[nH+]c2ccccc21 10=20;20,21=21",
"CC(C)C(O[C@H]1O[C@@H](C(=O)[O-:10])[C@H](O)[C@@H](O)[C@@H]1O)C(C)C.COc1ccc(C(O)C[NH2+:21][H:20])cc1>>CC(C)C(O[C@H]1O[C@@H](C(=O)[O:10][H:20])[C@H](O)[C@@H](O)[C@@H]1O)C(C)C.COc1ccc(C(O)C[NH2:21])cc1 10=20;20,21=21",
"O=S(=O)([O-])c1cc[n:10]cc1.O=[N+]([O-])c1ccc2[nH]c(CO)[n+:21]([H:20])c2c1>>O=S(=O)([O-])c1cc[n+:10]([H:20])cc1.O=[N+]([O-])c1ccc2[nH]c(CO)[n:21]c2c1 10=20;20,21=21",
"COC(=O)C1=CCC[NH+:21]([H:20])C1.O=C(Cc1ccc2ccc3ccc[n:10]c3c2n1)c1ccccc1>>COC(=O)C1=CCC[NH:21]C1.O=C(Cc1ccc2ccc3ccc[n+:10]([H:20])c3c2n1)c1ccccc1 10=20;20,21=21",
"CCCCCC[N:10](CC(C)O)CC(C)O.Nc1cc[n+:21]([H:20])c2ccc3ncccc3c12>>CCCCCC[N+:10](CC(C)O)(CC(C)O)[H:20].Nc1cc[n:21]c2ccc3ncccc3c12 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.C[Si](C)(C)C[NH:10]C1CCCCC1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.C[Si](C)(C)C[NH+:10](C1CCCCC1)[H:20] 10=20;20,21=21",
"CC(C)/C=[N+:21](/C)[H:20].CCN(c1nnn[n-:10]1)[N+](=O)[O-]>>CC(C)/C=[N:21]/C.CCN(c1nnn[n:10]1[H:20])[N+](=O)[O-] 10=20;20,21=21",
